US07491735B2
To 4-(4-trifluoromethyl-benzoyl)-piperidine-1-carboxylic acid tert-butyl ester (650 mg, 1.82 mmol) in DMF (14 mL) was added to NaH (60% in mineral oil, 153 mg, 6.37 mmol) and the mixture was heated at 50° C. for 30 minutes. MeI (0.47 mL, 7.64 mmol) was added and the mixture was heated at 50° C. for an additional 3 hours to afford 4-methyl-4-(4-trifluoromethyl-benzoyl)-piperidine-1-carboxylic acid tert-butyl ester as a colourless oil (390 mg, 58%) following work-up and purification.

reactant | 4-(4-trifluoromethyl-benzoyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.82 mmol, 650 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C1=CC=C(C=C1)C(F)(F)F)=O | C18H22F3NO3
reactant | NaH | 6.37 mmol, 153 mg | [H-].[Na+]
reactant | MeI | 7.64 mmol, 0.47 mL | CI | CH3I
solvent | DMF | 14 mL | CN(C)C=O | C3H7NO
product | 4-methyl-4-(4-trifluoromethyl-benzoyl)-piperidine-1-carboxylic acid tert-butyl ester | 390 mg, 58% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(C1=CC=C(C=C1)C(F)(F)F)=O)C | C19H24F3NO3
